US04715994
1-Aminoethyl-[2-carboxy-4-methyl-1-n-pentyl]phosphinic acid
By methods outlined in Example 2 and using methyl-2-isobutyl acrylate was made methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-4-methyl-1-n-pentyl]phosphinate. NMR (D2O) 1.9 (overlapping d, 6H); 1.5-3.2 (m, 9H); 4.6 (d, 3H); 3.8-4.3 (m, 1H); 5.1 (s, 2H); 5.5 (d, 0.05H); 5.9 (d, 0.5H); 7.2 (s, 5H).

reactant | methyl-2-isobutyl acrylate | C(C=C)(=O)OC(CC)(C)C | C8H14O2
reactant | methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-4-methyl-1-n-pentyl]phosphinate | COP(=O)(CC(CC(C)C)C(=O)OC)C(C)NC(=O)OCC1=CC=CC=C1 | C19H30NO6P
product | 1-Aminoethyl-[2-carboxy-4-methyl-1-n-pentyl]phosphinic acid | NC(C)P(O)(=O)CC(CC(C)C)C(=O)O | C9H20NO4P
